data/rdb19/train.csv
rxn,smiles,ea
1047,[C:14]([C:15]([C:16]([C:17]([H:30])([H:31])[H:32])([c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][C:20]1([H:34])[C:19]([H:33])=[C:18]([C:16]([C:15]([C:14]([H:24])([H:25])[H:26])([H:27])[H:28])([C:17]([H:30])([H:31])[H:32])[H:29])[C:23]([H:37])=[C:22]([H:36])[C:21]1[H:35],35.810991759528406
4370,[C:16]([C:17]([C:18]([H:19])[H:20])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6][H:11])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10].[H:12][C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:19])[H:20],25.418883902893867
4673,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])[H:12])([H:8])([H:9])[H:10].[H:11][C:18]([C:17]([H:23])([H:24])[H:25])([O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26],52.952621733536944
4529,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6])([H:7])([H:8])[H:9].[H:12][C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:16])[H:17],22.34572021587519
4578,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:17]([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],66.62615226476919
183,[C:12]([C:13]([C:14]([C:15]([H:25])([H:26])[H:27])([N:16]([C:17](=[O:18])[H:29])[H:28])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([C:14]([C:15]([H:25])([H:26])[H:27])([N:16]([C:17](=[O:18])[H:29])[H:28])[H:24])([H:22])[H:23])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[H:21])([H:6])([H:7])[H:8],28.82705238845665
2459,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8](=[C:9]([N:10]([C:11](=[O:12])[H:17])[H:16])[H:15])([H:13])[H:14]>>[C:1]([C:2]([H:3])([H:4])[C:11]([N:10]([C:9](=[C:8]([H:13])[H:14])[H:15])[H:16])([O:12])[H:17])([H:5])([H:6])[H:7],22.80335089415894
4293,[C:16]([C:17]([C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])[H:12])([C:7]([H:13])([H:14])[H:15])[C:18]([C:17]([C:16]([H:22])([H:23])[H:24])([H:25])[H:26])([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:8])([H:9])[H:10],15.91348148213001
1765,[C:15]([C:16]([C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16]([C:17](=[C:18]([H:25])[H:26])[H:24])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10],19.78108256595442
2693,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31].[H:15][C:20]([H:24])([H:25])[H:26],84.0414625555859
3878,[C:13]([O:14][C:15]([C:16]([H:24])([H:25])[H:26])([C:17]([H:18])[H:19])[H:23])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([C:4]([H:11])[H:12])([H:10])[C:17]([C:15]([O:14][C:13]([H:20])([H:21])[H:22])([C:16]([H:24])([H:25])[H:26])[H:23])([H:18])[H:19])([H:8])[H:9])([H:5])([H:6])[H:7],17.429912767896894
397,[C:4](=[C:5]([N:6]([C:7](=[O:8])[H:13])[H:12])[H:11])([H:9])[H:10].[O:1]([O:2])[H:3]>>[O:1][O:2][C:4]([C:5]([H:3])([N:6]([C:7](=[O:8])[H:13])[H:12])[H:11])([H:9])[H:10],29.18765699659707
